US07208495B2
1-(2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine hydrochloride
Bis(2-chloroethyl)amine hydrochloride (18.7 g, 105 mmol) was added to a suspension of 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine (29.5 g, 100 mmol) in 1-butanol (300 mL) and the mixture was refluxed for 24 hours under argon atmosphere. The reaction mixture was cooled to room temperature and then sodium carbonate (12.7 g, 120 mmol) was added. The resulting mixture was refluxed for 24 hours and concentrated under reduced pressure. The residue was diluted with water (500 ml) and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified on basic silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain a free base of the title compound as an oil residue.

reactant | Bis(2-chloroethyl)amine hydrochloride | 105 mmol, 18.7 g | Cl.ClCCNCCCl
reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 100 mmol, 29.5 g | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | sodium carbonate | 120 mmol, 12.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 300 mL | C(CCC)O | C4H10O
product | 1-(2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine hydrochloride | Cl.CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N2CCNCC2)C)C | InChI=1S/C24H32N2O.ClH/c1-15-7-9-19(10-8-15)21-20-18(4)22(26-13-11-25-12-14-26)16(2)17(3)23(20)27-24(21,5)6;/h7-10,21,25H,11-14H2,1-6H3;1H
